US06423713B1
A solution of HCl in methanol (5 mL) was generated by addition of acetyl chloride (200 mg) to methanol while cooling (5° C.). 3-(4-Chlorophenyl)-4-(4-pyridyl)-5-(4-N-tert.-butoxycarbonylpiperazinyl)pyrazole (100 mg, 0.2 mmol) prepared above was added and the reaction stirred in the cold for one hour. The reaction mixture was concentrated in vacuo and the residue azeotroped with toluene to give 100 mg of 1-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1-(2-propynyl)-1H-pyrazol-3-yl]piperazine, trihydrochloride monohydrate (90%), m.p.=231-233° C. (dec.). Anal. Calc'd. for C21H20N5Cl.3HCl.H2O: C, 49.92; H, 4.99; N, 13.86. Found: C, 49.71; H, 4.89; N, 13.61.

reactant | HCl | Cl | ClH
reactant | acetyl chloride | 200 mg | C(C)(=O)Cl | C2H3ClO
reactant | 3-(4-Chlorophenyl)-4-(4-pyridyl)-5-(4-N-tert.-butoxycarbonylpiperazinyl)pyrazole | 0.2 mmol, 100 mg | ClC1=CC=C(C=C1)C1=NNC(=C1C1=CC=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C23H26ClN5O2
reactant | methanol | 5 mL | CO | CH4O
product | 1-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1-(2-propynyl)-1H-pyrazol-3-yl]piperazine, trihydrochloride monohydrate | 100 mg, 90% | O.Cl.Cl.Cl.ClC1=CC=C(C=C1)C1=C(C(=NN1CC#C)N1CCNCC1)C1=CC=NC=C1 | InChI=1S/C21H20ClN5.3ClH.H2O/c1-2-13-27-20(17-3-5-18(22)6-4-17)19(16-7-9-23-10-8-16)21(25-27)26-14-11-24-12-15-26;;;;/h1,3-10,24H,11-15H2;3*1H;1H2
